US05162316
7-Methylamino-2 (2-methoxyphenyl)-4-oxo-3,4-dihydropyrimido [4,5-d]pyrimidine
In a similar manner to Example 8 reaction of 7-methylthio-2-(2-methoxyphenyl)-4-oxo-3,4-dihydropyrimido[4,5-d]pyrimidine (0.75 g) and 33% methylamine in industrial methylated spirit (25 ml) for 18 hours yielded the title compound, 0.38 g, m.p. 265°-267° C. (recrystallised twice from methanol).

reactant | 7-methylthio-2-(2-methoxyphenyl)-4-oxo-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.75 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OC | C14H12N4O2S
reactant | methylamine | CN | CH5N
product | 7-Methylamino-2 (2-methoxyphenyl)-4-oxo-3,4-dihydropyrimido [4,5-d]pyrimidine | CNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OC | C14H13N5O2
